US07514566B2
Crude 4-(2-acetamido-4-(methoxymethyl)thiazole-5-carboxamido)pyridin-3-yl diethylcarbamodithioate (4.485 g, 9.89 mmol) and formic acid (0.379 mL, 9.89 mmol) were added to a 150 mL round-bottomed flask, and the solution was stirred at reflux for approximately 24 hours until LCMS indicated that the reaction was complete. The formic acid was removed, and the reaction was quenched by addition of 1 N NaOH. No precipitate formed, and the solution was made neutral with HCl and extracted with EtOAc (5×75 mL) to provide crude product. The organic solution was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with a gradient of 2% to 10% 2 M NH3.MeOH in DCM, to provide N-(4-(methoxymethyl)-5-(thiazolo[5,4-c]pyridin-2-yl)thiazol-2-yl)acetamide (0.446 g, 1.39 mmol, 14.1% yield). LCMS (M+H) 321.1 calc. for C13H13N4O2S2 321.39, 1H NMR (400 MHz, CD3OD): δ ppm 9.42 (s, 1H), 8.61 (d, J=6.5 Hz, 1H), 8.18 (d, J=6.5 Hz, 1H), 4.82 (s, 2H), 3.51 (s, 3H), 2.27 (s, 3H).

reactant | 4-(2-acetamido-4-(methoxymethyl)thiazole-5-carboxamido)pyridin-3-yl diethylcarbamodithioate | 9.89 mmol, 4.485 g | C(C)N(C(=S)SC=1C=NC=CC1NC(=O)C1=C(N=C(S1)NC(C)=O)COC)CC | C18H23N5O3S3
reactant | formic acid | 9.89 mmol, 0.379 mL | C(=O)O | CH2O2
reactant | HCl | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(4-(methoxymethyl)-5-(thiazolo[5,4-c]pyridin-2-yl)thiazol-2-yl)acetamide | 1.39 mmol, 0.446 g, 14.1% yield | COCC=1N=C(SC1C=1SC=2C=NC=CC2N1)NC(C)=O | C13H12N4O2S2
